data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_482167_2,[C@:1]([C:2]([H:15])([H:16])[H:17])([C:3](/[C:5](=[N:7]\[O:6][H:9])[H:14])[N:8][H:13])([N:4]([H:11])[H:12])[H:10]>>[C@@:1]([C:2]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])([C@@:5]1([H:14])/[C:3](=[N:8]/[H:13])[N:7]1[O:6][H:9])[H:10],69.16869750000245
MR_605975_0,[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([C:5]([O:7][O:8][H:11])=[O:9])[C:6]([C:4]([H:18])([H:19])[H:20])=[O:10]>>[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([C:5]([C:6]([C:4]([H:18])([H:19])[H:20])=[O:10])=[O:9])[O:7][O:8][H:11],71.9692299999943
MR_147208_0,[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[C:4]([C:2]([H:13])([H:14])[H:15])([N:6]([H:9])[H:10])[O:7][H:8])([H:11])[H:12]>>[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12],50.9222525000213
MR_498683_0,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:8])[H:9])([N:7]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:8])[H:9])[N:7]([H:10])[H:11])([H:12])[H:13],60.89699249998432
MR_304334_0,[C:1]([C:5]([N:4](/[C:8](=[C:9](\[N:7]([H:11])[H:12])[H:14])[H:13])[H:10])=[C:6]([C:2]([H:18])([H:19])[H:23])[C:3]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:5]1([C:6](=[C:2]([H:18])[H:23])[C:3]([H:20])([H:21])[H:22])[N:4]([H:10])[C:8]1([C:9]([N:7]([H:11])[H:12])([H:14])[H:19])[H:13])([H:15])([H:16])[H:17],56.429819999991366
MR_568955_0,[C:1]([C:3]([C:5]([C:2](=[O:8])[H:13])([O:9][H:12])[H:16])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])([O:6][H:10])[O:7][H:11]>>[C:1]([C:3]([C:2]([C:5](=[O:9])[H:16])([O:8][H:12])[H:13])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])([O:6][H:10])[O:7][H:11],50.25019999997028
MR_409433_0,[C:1]([C:2]([C:3]([N:7]=[O:8])([H:13])[H:14])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[N:6]([H:9])[H:10]>>[C:1](\[C:2]([C:3]([N:7]([C:5]([H:18])([H:19])[H:20])[O:8][H:9])([H:13])[H:14])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])=[N:6]/[H:10],63.90334499999156
MR_485145_0,[C:1](/[N:6]=[C:4](\[N:2]([N:3]([H:8])[H:9])[O:5][H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([N:3]([H:8])[H:9])/[C:4](=[N:2]/[O:5][H:7])[H:10])([H:11])([H:12])[H:13],70.23858500001211
MR_669150_0,[C:1]([C:3]([N:7]([H:13])[H:14])([H:17])[H:18])([N:5]([C:2]([C:6]([C:4]([H:19])([H:20])[H:21])=[O:9])([H:15])[H:16])[H:11])([O:8][H:10])[H:12]>>[C:1]([N:5]([C:2]([C:6]([C:3]([N:7]([H:13])[H:14])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:9][H:10])([H:15])[H:16])[H:11])(=[O:8])[H:12],70.66026500001755
MR_23690_1,[C:1]([C:4]12[N:3]([H:8])[N:7]1[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]2[H:9])([H:10])([H:11])[H:12]>>[C:1]([c:4]1[n:3]([H:8])[n:7][c:5]([C:2]([H:13])([H:14])[H:15])[c:6]1[H:9])([H:10])([H:11])[H:12],20.863747500007577
MR_347938_0,[C:1]1([C:2]([C:6]([H:17])([H:18])[H:19])([C:7]([H:20])([H:21])[H:22])[O:10][H:11])([C:5]([H:14])([H:15])[H:16])[C:3]([C:8]([H:23])([H:24])[H:25])([C:9]([H:26])([H:27])[H:28])[C:4]1([H:12])[H:13]>>[C:1](=[C:2]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([C:4]([C:3]([C:8]([H:23])([H:24])[H:25])([C:9]([H:26])([H:27])[H:28])[O:10][H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16],67.78506000003588
MR_645058_0,[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[O:8][H:9])[O:7][C:5](=[C:6]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:2]([N:4]([H:10])[H:11])=[O:8])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:9])([H:13])([H:14])[H:15],46.57116749998494
MR_186773_0,[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2]([H:11])([H:12])[H:13])[O:6][H:8])([C:5](=[O:7])[H:10])[H:9]>>[C@:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C@:5]([N:4]([C:2]([H:11])([H:12])[H:13])[O:6][H:8])([H:10])[O:7]1,72.54904000002853
MR_162526_1,[C:1](/[C:4](=[C:3]([C:7](=[C:5](/[C:2]([H:18])([H:19])[H:20])[N:6]([H:12])[H:13])/[H:14])\[O:8][H:10])[O:9][H:11])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([O:9][H:11])[C:3]([O:8][H:10])=[C:7]([H:14])[C:5]1([C:2]([H:18])([H:19])[H:20])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17],55.62724749998452
MR_258358_2,[C:1]([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([O:9][H:13])[H:14])=[O:10])([O:7][H:12])[O:8][H:11]>>[C:1]([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([O:9][H:13])[H:14])([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])[O:10][H:12])(=[O:7])[O:8][H:11],41.81910999999786
MR_608614_0,[N:1](/[C:2](=[C:4](\[O:9][H:13])[H:14])[O:7][H:11])([C:3](=[C:5]([H:15])[H:16])[O:8][H:12])[O:6][H:10]>>[N:1](=[C:2](/[C:4]([C:3](=[C:5]([H:15])[H:16])[O:8][H:12])([O:9][H:13])[H:14])[O:7][H:11])\[O:6][H:10],66.3920099999504
MR_360874_0,[C:1]([C:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](\[O:7][H:9])[H:12])=[N:8]\[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:4]([C:2]([H:16])([H:17])[H:18])[C@@:6]([O:7][H:9])([H:12])[N:8]1[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],40.922412499978975
